US09302991B2
<Step-1>: methyl 6-methyl-2-propionamidopyrimidine-4-carboxylate
The title compound is prepared in 61% yield (0.73 g, a yellow solid) from methyl 2-chloro-6-methylpyrimidine-4-carboxylate (1.0 g, 5.4 mmol) and propionamide by the similar manner in Step-1 of Carboxylic acid-4.

reactant | methyl 2-chloro-6-methylpyrimidine-4-carboxylate | 5.4 mmol, 1.0 g | ClC1=NC(=CC(=N1)C(=O)OC)C | C7H7ClN2O2
reactant | propionamide | C(CC)(=O)N | C3H7NO
product | methyl 6-methyl-2-propionamidopyrimidine-4-carboxylate | 61% yield | CC1=CC(=NC(=N1)NC(CC)=O)C(=O)OC | C10H13N3O3
